US07329683B2
a) Preparation of 2-[2-(4-chlorophenyl)adamantan-2-yl]acetamide (6-1a)
To a solution of 2-[2-(4-chlorophenyl)adamantan-2-yl] acetic acid (100 mg, 0.33 mmol) in 4 mL N,N-dimethylformamide (DMF) were added sequentially ammonium chloride (88 mg, 1.6 mmol), 1-hydroxybenzotriazole hydrate (HOBt, 67 mg, 0.49 mmol), N,N-diisopropylethylamine (575 μL, 3.3 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC, 95 mg, 0.49 mmol). The mixture was stirred at room temperature under nitrogen for 2 h, then added to a separatory funnel containing 50 mL of ethyl acetate and aqueous hydrochloric acid (HCl, 1N). The layers were separated and the organic layer was washed sequentially with aqueous N HCl, saturated aqueous sodium bicarbonate, and brine. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo to yield 82 mg of title compound as a white powder which was used without purification.

reactant | 2-[2-(4-chlorophenyl)adamantan-2-yl] acetic acid | 0.33 mmol, 100 mg | ClC1=CC=C(C=C1)C1(C2CC3CC(CC1C3)C2)CC(=O)O | C18H21ClO2
reactant | ammonium chloride | 1.6 mmol, 88 mg | [Cl-].[NH4+]
reactant | 1-hydroxybenzotriazole hydrate | 0.49 mmol, 67 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 3.3 mmol, 575 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.49 mmol, 95 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-[2-(4-chlorophenyl)adamantan-2-yl]acetamide | 82 mg | ClC1=CC=C(C=C1)C1(C2CC3CC(CC1C3)C2)CC(=O)N | C18H22ClNO
